US04329518
A stirred solution of 2,3,4,6-tetrafluoroaniline (50 g, 0.30 mole) in benzene (236.6 g, 3.03 mole) was heated under reflux. During a 45 minute period, t-butyl nitrite (46.8 g, 0.455 mole) was added to the reaction mixture. After complete addition the mixture was heated at reflux for 23/4 hours. n-Heptane (1 l) was added, and the solvent was distilled from the reaction flask until a head temperature of 101° was reached. The pot residue was cooled and subjected to column chromatography on silica gel, elution first with n-heptane, then toluene, to give 2,3,4,6-tetrafluoro-[1,1'-biphenyl] (mp, 89°-90°).

reactant | 2,3,4,6-tetrafluoroaniline | 0.30 mole, 50 g | FC1=C(N)C(=CC(=C1F)F)F | C6H3F4N
reactant | benzene | 3.03 mole, 236.6 g | C1=CC=CC=C1 | C6H6
reactant | t-butyl nitrite | 0.455 mole, 46.8 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | n-Heptane | 1 l | CCCCCCC | C7H16
product | 2,3,4,6-tetrafluoro-[1,1'-biphenyl] | FC1=C(C(=CC(=C1F)F)F)C1=CC=CC=C1 | C12H6F4
